US04767750
5-(2-Propylpentanoyl)Salicylic Acid
This compound is prepared by a Friedel-Crafts reaction from salicylic acid and 2-propylpentanoyl chloride. The acid yield is 52%. The recrystallization is done in petroleum ether. The melting point is 118° C.

reactant | salicylic acid | C(C=1C(O)=CC=CC1)(=O)O | C7H6O3
reactant | 2-propylpentanoyl chloride | C(CC)C(C(=O)Cl)CCC | C8H15ClO
product | 5-(2-Propylpentanoyl)Salicylic Acid | yield is 52% | C(CC)C(C(=O)C1=CC=C(C(C(=O)O)=C1)O)CCC | C15H20O4
